US04486597
A 20 g quantity of piperidinium N-(3,4-dimethoxycinnamoyl)anthranilate is dissolved in 60 ml of water with heating, and the resultant aqueous solution is added dropwise to 45 ml of diluted hydrochloric acid (5 ml of conc. hydrochloric acid and 40 ml of water) with stirring. The precipitated crystals which form are collected by filtration, washed with water and then dried at 90°-100° C. under reduced pressure for 3 hours to yield 15.5 g of N-(3,4-dimethoxycinnamoyl)anthranilic acid (98.0% yield), m.p. 208°-208.5° C. The compound structure is confirmed by elemental analysis, and by IR and NMR spectroscopy.

reactant | piperidinium N-(3,4-dimethoxycinnamoyl)anthranilate | COC=1C=C(C=CC(=O)NC=2C(C(=O)[O-])=CC=CC2)C=CC1OC.[NH2+]1CCCCC1
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | water | 60 ml | O | H2O
product | N-(3,4-dimethoxycinnamoyl)anthranilic acid | 15.5 g, 98.0% yield | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
